US07348340B2
A4. N-[2-(4-Cyclohexylphenyl)-4-methoxy-quinolin-6-yl]-acetamide
Into a 500 mL three-neck round-bottom flask equipped with a condenser, magnetic stirrer and nitrogen inlet was added 35.7 g (0.099 moles) of N-[2-(4-cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide. The material was suspended in 250 mL of toluene with stirring and then 20.6 mL (0.21 moles) of dimethyl sulfate was added. The resulting suspension was heated with a silicone oil heating bath, to gentle a reflux for 18 hr. After this time the reaction was allowed to cool and hexane was added. The solids were collected by vacuum filtration and washed with hexane. After drying, the solids were suspended in a 2 L Erlenmeyer flask with 1 L of 5% sodium hydroxide solution. The vigorously stirred suspension was then heated to 70° C. for 30 min. This step converted the salt form of the material to the free base and removed some impurities. After cooling the solids were collected by vacuum filtration and then washed with water. The product was dried in a vacuum oven to give 35.8 g (96%) of a material which contained approximately 30% of side products, with the N-methylated material constituting the major impurity. This material was used in the following procedure without further purification.

reactant | N-[2-(4-cyclohexylphenyl)-4-hydroxy-quinolin-6-yl]-acetamide | 0.099 moles, 35.7 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)O)NC(C)=O | C23H24N2O2
reactant | dimethyl sulfate | 0.21 moles, 20.6 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-Cyclohexylphenyl)-4-methoxy-quinolin-6-yl]-acetamide | 35.8 g, 96% | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)OC)NC(C)=O | C24H26N2O2
